US07132443B2
(2S,4S)-1-{(2R)-2-amino-3-methyl-3-[(3-phenoxybenzyl)thio]butanoyl}-4-fluoropyrrolidine-2-carbonitrile hydrochloride
To a CH2Cl2 solution (45 mL) containing tert-butyl (1R)-1-{[(2S,4S)-2-cyano-4-fluoropyrrolidin-1-yl]carbonyl}-2-methyl-2-[(3-phenoxybenzyl)thio]propylcarbamate (500 mg, 0.0010 mol) was added TFA (5 mL). The reaction mixture was allowed to stir at RT for a period of 16.0 hours followed by neutralization with sat. NaHCO3. The organics were separated, dried over MgSO4 and concentrated to dryness to afford a crude solid. The resulting solid was purified using silica gel chromatography (99% CH2Cl2/1% MeOH with 2.0 M NH3). The pure solid was dissolved into an acetone/ether mixture (1/1) and precipitated using 2.0 N HCl in ether. The resulting solid was filtered in vacuo and washed with ether. After drying under high vacuum the reaction yielded a total of 132 mg of the title compound.

reactant | tert-butyl (1R)-1-{[(2S,4S)-2-cyano-4-fluoropyrrolidin-1-yl]carbonyl}-2-methyl-2-[(3-phenoxybenzyl)thio]propylcarbamate | 0.0010 mol, 500 mg | C(#N)[C@H]1N(C[C@H](C1)F)C(=O)[C@H](C(C)(SCC1=CC(=CC=C1)OC1=CC=CC=C1)C)NC(OC(C)(C)C)=O | C28H34FN3O4S
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | CH2Cl2 | 45 mL | C(Cl)Cl | CH2Cl2
product | (2S,4S)-1-{(2R)-2-amino-3-methyl-3-[(3-phenoxybenzyl)thio]butanoyl}-4-fluoropyrrolidine-2-carbonitrile hydrochloride | 132 mg | Cl.N[C@H](C(=O)N1[C@@H](C[C@@H](C1)F)C#N)C(C)(SCC1=CC(=CC=C1)OC1=CC=CC=C1)C | InChI=1S/C23H26FN3O2S.ClH/c1-23(2,21(26)22(28)27-14-17(24)12-18(27)13-25)30-15-16-7-6-10-20(11-16)29-19-8-4-3-5-9-19;/h3-11,17-18,21H,12,14-15,26H2,1-2H3;1H/t17-,18-,21+;/m0./s1
